US06562849B1
2-Chloromethyl-5-(3,5-dimethyl-4-nitrophenylthio)-3-methyl-3H-imidazo[4,5-b]pyridine
To a mixture of 2-chloromethyl-5-(3,5-dimethylphenylthio)-3-methyl-3H-imidazo[4,5-b]pyridine (2.54 g), sulfuric acid (5 ml) and acetic acid (45 ml) was added nitric acid (0.52 ml) in an ice bath. The mixture was allowed to stand at room temperature for 64 hours. The reaction mixture was concentrated, diluted with water, neutralized with sodium bicarbonate and then extracted with ethyl acetate. The extract was concentrated. The residue was chromatographed on a silica gel column using ethyl acetate:n-hexane=1:1 as the eluant to afford the desired compound (0.53 g, mp 133-135° C.).

reactant | 2-chloromethyl-5-(3,5-dimethylphenylthio)-3-methyl-3H-imidazo[4,5-b]pyridine | 2.54 g | ClCC1=NC=2C(=NC(=CC2)SC2=CC(=CC(=C2)C)C)N1C | C16H16ClN3S
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 0.52 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | 2-Chloromethyl-5-(3,5-dimethyl-4-nitrophenylthio)-3-methyl-3H-imidazo[4,5-b]pyridine | 0.53 g | ClCC1=NC=2C(=NC(=CC2)SC2=CC(=C(C(=C2)C)[N+](=O)[O-])C)N1C | C16H15ClN4O2S
